US07259175B2
3-{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid
3-{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid methyl ester (0.100 g, 0.223 mmole) is treated with a mixture of NaOH(aq) (1 mL)/THF (3 mL)/MeOH (3 mL) at room temperature overnight. The organic solvents are removed on rota-vapor. The residue is diluted with water (10 mL), acidified to pH=2 with 6N HCl(aq). The precipitate is collected through filtration, washed with cold water (30 mL) and dried to provide the titled compound as a white solid. Mass [EI+] 434 (M++H), 432 (M+−H).

reactant | 3-{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid methyl ester | 0.223 mmole, 0.100 g | COC(CCC1=C(C=C(C=C1)OCC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CC)C)=O | C24H24F3NO4
reactant | NaOH | 1 mL | [OH-].[Na+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | 3-{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid | C(C)C=1N=C(OC1COC1=CC(=C(C=C1)CCC(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C23H22F3NO4
